US08431575B2
To a solution of cis-4-azidomethyl-piperidin-3-ol (1.4 mmol, 272 mg) in DME (4.2 mL) was added triethylamine (5.62 mmol, 0.8 mL) and 6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid pentafluorophenyl ester (1.41 mmol, 785 mg). Reaction was stirred at room temperature for 3 h. Upon completion, the reaction was quenched with 0.1 N NaOH (40 mL), extracted, dried and removal of solvent afforded the residue which was chromatographed with hexane:EtOAc gradient to afforded (±)-cis-4-azidomethyl-3-hydroxy-piperidin-1-yl)-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yl]-methanone (180 mg, 25% yield).

reactant | cis-4-azidomethyl-piperidin-3-ol | 1.4 mmol, 272 mg | N(=[N+]=[N-])C[C@@H]1[C@@H](CNCC1)O | C6H12N4O
reactant | triethylamine | 5.62 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | 6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid pentafluorophenyl ester | 1.41 mmol, 785 mg | FC1=C(C(=C(C(=C1OC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)F)F)F)F | C27H25F5N2O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DME | 4.2 mL | COCCOC | C4H10O2
product | [6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yl]-methanone | 180 mg, 25% yield | C(CCC)C1=C(C=C(N=N1)C=O)C1=CC=C(C=C1)OC1CCCCC1 | C21H26N2O2
